US06727264B1
N-[3-(1-{[1-(2,3-DICHLOROPHENYL)-1H-INDOL-7-YL]METHYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE:
Prepared by Procedure C and Scheme Q1, with CuBr in place of Cu, using 1,2-dichloro-3-iodobenzene and N-{3-[1-(1H-indol-7-ylmethyl)-4-piperidinyl]phenyl}-2-methylpropanamide: ESMS m/e: 520.2 (M+H)+.

reactant | 1,2-dichloro-3-iodobenzene | ClC1=C(C(=CC=C1)I)Cl | C6H3Cl2I
reactant | N-{3-[1-(1H-indol-7-ylmethyl)-4-piperidinyl]phenyl}-2-methylpropanamide | N1C=CC2=CC=CC(=C12)CN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C24H29N3O
product | N-[3-(1-{[1-(2,3-DICHLOROPHENYL)-1H-INDOL-7-YL]METHYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE | ClC1=C(C=CC=C1Cl)N1C=CC2=CC=CC(=C12)CN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C30H31Cl2N3O
